US04216158
Preparation of 2,6-di-tert.-butyl-4-benzylidene-2,5-cyclohexadien-one
311 g (0.5 mol) of bis-[3,5-di-tert.-butyl-4-hydroxy(α-phenyl)-benzyl]sulphide, 1,000 ml of xylene and 190 g of basic lead carbonate are heated to the boil for 10 hours using a water separator, whereupon 10 ml of water are separated off. After filtering off the inorganic constituents, the filtrate is evaporated to dryness in vacuo. On cooling, the residue crystallises to give a yellow crystal mass.

reactant | bis-[3,5-di-tert.-butyl-4-hydroxy(α-phenyl)-benzyl]sulphide | 0.5 mol, 311 g | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)SC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C2=CC=CC=C2)C=C(C1O)C(C)(C)C | C42H54O2S
reactant | xylene | 1,000 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | lead carbonate | 190 g | C([O-])([O-])=O.[Pb+2]
solvent | water | O | H2O
product | 2,6-di-tert.-butyl-4-benzylidene-2,5-cyclohexadien-one | C(C)(C)(C)C=1C(C(=CC(C1)=CC1=CC=CC=C1)C(C)(C)C)=O | C21H26O
